US07759337B2
Synthesis of 4-Methyl-3-{1-[(3R)-3-methylmorpholin4-yl]phthalazin-6-yl}benzamide
To (R)-3-methylmorpholine (108 mg, 1068 μmol) and 6-bromo-1-chlorophthalazine (130 mg, 534 μmol) was added p-xylene (534 μl) and the mixture was heated to 165° C. for 1.5 h. The reaction mixture was added to 4-methyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzamide (154 mg, 589 μmol), tetrakis(triphenylphosphine)palladium (31 mg, 27 μmol), ethanol (5.35 mL), and potassium carbonate—1.5 M in water (1428 μl, 2142 μmol) and heated to 90° C. for 1 h. It was cooled to RT, diluted with 50 mL of ethyl acetate, partitioned with sodium bicarbonate (saturated, aqueous), and the organics were washed 2×20 mL with sodium bicarbonate (saturated, aqueous), separated, dried over sodium sulfate, concentrated in vacuo, and purified by HPLC to give the title compound.

reactant | (R)-3-methylmorpholine | 1068 μmol, 108 mg | C[C@H]1NCCOC1 | C5H11NO
reactant | 6-bromo-1-chlorophthalazine | 534 μmol, 130 mg | BrC=1C=C2C=NN=C(C2=CC1)Cl | C8H4BrClN2
reactant | 4-methyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzamide | 589 μmol, 154 mg | CC1=C(C=C(C(=O)N)C=C1)B1OC(C(O1)(C)C)(C)C | C14H20BNO3
reactant | potassium carbonate | 1.5 M | C([O-])([O-])=O.[K+].[K+]
reactant | water | 2142 μmol, 1428 μl | O | H2O
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium | 27 μmol, 31 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | ethanol | 5.35 mL | C(C)O | C2H6O
solvent | p-xylene | 534 μl | CC=1C=CC(=CC1)C | C8H10
product | 4-Methyl-3-{1-[(3R)-3-methylmorpholin4-yl]phthalazin-6-yl}benzamide | CC1=C(C=C(C(=O)N)C=C1)C=1C=C2C=NN=C(C2=CC1)N1[C@@H](COCC1)C | C21H22N4O2
